US09024018B2
(E)-4-(2-(Thiophen-2-yl)vinyl)-1H-imidazol-5-amine
5% Palladium on carbon (0.5 g) was added to a solution of (E)-5-nitro-4-(2-(thiophen-2-yl)vinyl)-1H-imidazole (4.5 g, 0.02 mol) in methanol (500 mL) and the resulting mixture hydrogenated at atmospheric pressure for 24 hours. The catalyst was removed by filtering through a short bed of Celite™, and the Celite™ washed with 10% MeOH/DCM (200 mL). The filtrate was evaporated to dryness and purified by column chromatography (5-10% MeOH/DCM) to leave the product as a pale brown solid (2.75 g, 71%). δH (DMSO-d6) 11.58 (1H, bs, NH), 7.25 (2H, m), 6.95 (3H, m), 6.62 (1H, d, J=16.0), 4.86 (2H, bs, NH2).

reactant | (E)-5-nitro-4-(2-(thiophen-2-yl)vinyl)-1H-imidazole | 0.02 mol, 4.5 g | [N+](=O)([O-])C1=C(N=CN1)\C=C\C=1SC=CC1 | C9H7N3O2S
catalyst | Palladium on carbon | 0.5 g | [Pd] | Pd
solvent | methanol | 500 mL | CO | CH4O
product | (E)-4-(2-(Thiophen-2-yl)vinyl)-1H-imidazol-5-amine | 2.75 g, 71% | S1C(=CC=C1)/C=C/C=1N=CNC1N | C9H9N3S
